US06069156
To a solution of methyl 3-acetyl-1-(2-chlorobenzyl)-2-ethylindole-6-carboxylate (110 mg) in tetrahydrofuran (5 ml) was added 1M solution of boran in tetrahydrofuran (0.6 ml) in one portion at 0° C. The mixture was stirred at 20° C. for 1 hour, then quenched with water and extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of hexane and ethyl acetate (2:1) to give methyl 1-(2-chlorobenzyl)-2,3-diethylindole-6-carboxylate (42 mg) as colorless crystals.

reactant | methyl 3-acetyl-1-(2-chlorobenzyl)-2-ethylindole-6-carboxylate | 110 mg | C(C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC1=C(C=CC=C1)Cl)CC | C21H20ClNO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.6 ml | O1CCCC1 | C4H8O
product | methyl 1-(2-chlorobenzyl)-2,3-diethylindole-6-carboxylate | 42 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)CC)CC)C=CC=C1 | C21H22ClNO2
